US08202865B2
Step 2: Ethyl 4-{4-[amino(hydroxyimino)methyl]-2-fluorophenoxy}butanoate
Ethyl 4-(4-cyano-2-fluorophenoxy)butanoate (3.50 g; 13.93 mmol; 1 eq.) was dissolved in EtOH (70 mL). Hydroxylamine (2.05 mL; 69.65 mmol; 5 eq.) was added in one portion. The reaction mixture was stirred at RT for 12 hours. The reaction mixture was concentrated under vacuum affording the title compound as a white solid. (3.82 g, 96%). 1H NMR (DMSO-d6, 300 MHz) δ 9.59 (br s, 1H), 7.49-7.43 (m, 2H), 7.18-7.12 (m, 1H), 5.80 (br s, 2H), 4.11-4.02 (m, 4H), 2.46-2.43 (m, 2H), 2.03-1.94 (quint., J=6.97 Hz, 2H), 1.20-1.15 (t, J=7.11 Hz, 3H). LC/MS (Method B): 285.1 (M+H)+. HPLC (Method A) Rt 2.67 min (Purity: 99.1%).

reactant | Ethyl 4-(4-cyano-2-fluorophenoxy)butanoate | 13.93 mmol, 3.50 g, 1 eq. | C(#N)C1=CC(=C(OCCCC(=O)OCC)C=C1)F | C13H14FNO3
reactant | Hydroxylamine | 69.65 mmol, 2.05 mL, 5 eq. | NO | H3NO
solvent | EtOH | 70 mL | CCO | C2H6O
product | Ethyl 4-{4-[amino(hydroxyimino)methyl]-2-fluorophenoxy}butanoate | NC(C1=CC(=C(OCCCC(=O)OCC)C=C1)F)=NO | C13H17FN2O4
